US09056914B2
To a solution of 284 mg of methyl 3-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-propanoate in 28 ml of acetonitrile was added 356 mg of 1-iodo-2-[2-(2-methoxy-ethoxy)-ethoxy]-ethane and 330 μl of diisopropylethylamine. The mixture was heated at 80° C. for 3 days and then concentrated under reduced pressure and purified by flash chromatography on silica (Analogix Super Flash SiO2 SF25-40g), using a gradient of 5 to 10% MeOH in DCM. The fractions containing the desired product were combined and concentrated under reduced pressure. 165 mg of methyl 3-([2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-propanoate were obtained. LC/MS (B): tr=0.44 min; [M+H]+: m/z 431.

reactant | methyl 3-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-propanoate | 284 mg | OCC1=NC(=CC(=C1)OCCNCCC(=O)OC)CO | C13H20N2O5
reactant | 1-iodo-2-[2-(2-methoxy-ethoxy)-ethoxy]-ethane | 356 mg | ICCOCCOCCOC | C7H15IO3
reactant | diisopropylethylamine | 330 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 28 ml | C(C)#N | C2H3N
product | methyl 3-([2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-propanoate | 165 mg | OCC1=NC(=CC(=C1)OCCN(CCC(=O)OC)CCOCCOCCOC)CO | C20H34N2O8
